US09255071B2
2-Methoxy-5-iodobenzaldehyde (1.0 g, 3.82 mmol) is dissolved in 25 ml of acetonitrile and oxygen is removed by bubbling nitrogen through the solution. Triethylamine (3.71 ml, 26.7 mmol) and methyl acrylate (0.686, ml, 7.63 mmol) are added dropwise with stirring to the solution, followed by four portions of 0.0214 g of tri-o-tolylphosphine (0.095 mmol) and 0.008 g of palladium (II) acetate (0.047 mmol) at 1 hour intervals. The mixture is then heated at 65-70° C. for 4 hours, volatiles are removed by distillation and the residue is dissolved in dichloromethane. The resulting solution is percolated through silica gel eluting with a mixture of hexane-ethyl acetate (6:4). The percolate is evaporated to dryness, re-dissolved in 20 ml of methanol and 10 ml of 20% aqueous potassium carbonate solution added. The mixture is stirred for 6 hours at room temperature and concentrated under reduced pressure to a third of its volume. The solution is taken to a pH value of 1 with concentrated hydrochloride acid and the precipitate is filtered and recrystallized from isopropanol, to give 0.472 g of 3-formyl-4-methoxycinnamic acid (2.29 mmol) as a crystalline white solid. A second harvest obtained by concentration of the mother liquor gave an additional 0.105 g.

reactant | 2-Methoxy-5-iodobenzaldehyde | 3.82 mmol, 1.0 g | COC1=C(C=O)C=C(C=C1)I | C8H7IO2
reactant | Triethylamine | 26.7 mmol, 3.71 ml | C(C)N(CC)CC | C6H15N
reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
catalyst | palladium (II) acetate | 0.047 mmol, 0.008 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri-o-tolylphosphine | 0.095 mmol, 0.0214 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
product | 3-formyl-4-methoxycinnamic acid | 2.29 mmol, 0.472 g | C(=O)C=1C=C(C=CC(=O)O)C=CC1OC | C11H10O4
